US07790709B2
Preparation of (E)-3-(4-Ethoxycarbonylmethyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride
A solution of (E)-3-(4-ethoxycarbonylmethyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid tert-butyl ester (1.14 g, 3.04 mmol) in CH2Cl2 (8 mL) was treated with TFA (8 mL). After stirring at room temperature under N2 for 45 min, the clear tan solution was concentrated in vacuo. The resulting oil was treated with anhydrous HCl in dioxane (10 mL, 4.0 M) and sonicated until the oil was converted to a fine off-white solid. The resulting mixture was diluted with Et2O (100 mL) and stirred under N2 for 20 min. The solid was isolated by filtration, washed with Et2O, and dried under vacuum at 50° C. overnight to give the title compound (1.05 g, 88%) as an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.57 (s, 1H), 8.56-8.55 (m, 1H), 8.10 (s, 1H), 6.57 (d, J=16.0 Hz, 1H), 6.57 (d, J=16.0 Hz, 1H), 4.14-4.05 (m, 3H), 3.62-3.56 (m, 6H), 1.18 (t, J=7.1 Hz, 3H); MS (EST) m/e 320 (M+H)+.

reactant | (E)-3-(4-ethoxycarbonylmethyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid tert-butyl ester | 3.04 mmol, 1.14 g | C(C)(C)(C)OC(\C=C\C1=CC2=C(NC(CN(C2)CC(=O)OCC)=O)N=C1)=O | C19H25N3O5
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(4-Ethoxycarbonylmethyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | 1.05 g, 88% | Cl.C(C)OC(=O)CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O | InChI=1S/C15H17N3O5.ClH/c1-2-23-14(22)9-18-7-11-5-10(3-4-13(20)21)6-16-15(11)17-12(19)8-18;/h3-6H,2,7-9H2,1H3,(H,20,21)(H,16,17,19);1H/b4-3+;
